US07098212B2
2-(5-Chloro-3-nitro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone
To a solution of 1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-hydroxy-ethanone (0.77 g, 2.9 mmol) in dry toluene (30 mL) at 0° C. was added sodium hydride (0.13 g, 3.2 mmol, 60% dispersion in mineral oil). The reaction was stirred for 30 minutes at 0° C. followed by addition of 2,5-dichloro-3-nitro-pyridine (0.60 g, 3.18 mmol) as a solution in toluene (5 mL). The reaction was stirred at ambient temperature overnight. The, reaction was concentrated and chromatographed on silica gel to give the title compound (0.96 g).

reactant | 1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-hydroxy-ethanone | 2.9 mmol, 0.77 g | FC1=CC=C(CN2C[C@H](N(CC2)C(CO)=O)C)C=C1 | C14H19FN2O2
reactant | sodium hydride | 3.2 mmol, 0.13 g | [H-].[Na+]
reactant | 2,5-dichloro-3-nitro-pyridine | 3.18 mmol, 0.60 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-Chloro-3-nitro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | 0.96 g | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C)[N+](=O)[O-] | C19H20ClFN4O4
